US06723871B2
To 10 mL of acetonitrile were added 5 mL of a mixture of formic acid-triethylamine (5:2 in molar ratio), 7 mg of RuCl[(1R,2R)-p-TsNHCH(C6H5)CH(C6H5)NH2] (p-cymene), and 1.0 g of ethyl 4,4,4-trifluoro-3-oxobutanoate, and the whole was stirred at 35° C. for 15 hours, followed by concentration under reduced pressure using an evaporator. To the resulting concentrate were added 10 mL of water and 10 mL of ethyl acetate, and then a saturated sodium carbonate aqueous solution was added thereto under stirring until the pH became 7 or higher. The ethyl acetate layer separated from the aqueous layer was concentrated to obtain optically active ethyl 4,4,4-trifluoro-3-hydroxybutanoate. Upon the measurement under the above conditions, the optical purity and conversion were found to be 95.0% e.e. and 99.9%, respectively.

reactant | acetonitrile | 10 mL | C(C)#N | C2H3N
reactant | p-cymene | 7 mg | CC=1C=CC(=CC1)C(C)C | C10H14
reactant | ethyl 4,4,4-trifluoro-3-oxobutanoate | 1.0 g | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
solvent | formic acid-triethylamine | C(C)N(CC)CC.C(=O)O
product | ethyl 4,4,4-trifluoro-3-hydroxybutanoate | FC(C(CC(=O)OCC)O)(F)F | C6H9F3O3
